US07838543B2
5-Chloro-benzofuran-2-carboxylic acid [2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-yl]-amide
Prepare according to Method C (Example 9), using 5-chlorobenzofuran-2-carboxylic acid (109 mg, 0.554 mmol), oxalyl chloride (300 μL, 3.43 mmol), and 2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-ylamine (100 mg, 0.381 mmol) to afford the title compound (73 mg, 43%). mass spectrum (m/e): 441.0 [M+H]. 1H NMR (400 MHz, DMSO-d6) δ 10.59 (s, 1H), 8.26 (d, 1H, J=1.8 Hz), 7.93 (d, 1H, J=2.2 Hz), 7.76 (d, 1H, J=8.6 Hz), 7.73 (d, 1H, J=0.9 Hz), 7.60 (dd, 1H, J=8.8, 2.2 Hz), 7.52 (dd, 1H, J=8.8, 2.2 Hz), 7.45 (d, 1H, J=8.4 Hz), 3.72 (dd, 1H, J=9.5, 7.3 Hz), 3.63 (m, 1H), 3.48 (m, 1H), 3.27 (m, 1H), 2.89 (m, 1H), 2.22-2.15 (m, 7H), 1.91 (m, 1H).

reactant | 5-chlorobenzofuran-2-carboxylic acid | 0.554 mmol, 109 mg | ClC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C9H5ClO3
reactant | oxalyl chloride | 3.43 mmol, 300 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-ylamine | 0.381 mmol, 100 mg | CN(C1CN(CC1)C=1SC2=C(N1)C=CC(=C2)N)C | C13H18N4S
product | 5-Chloro-benzofuran-2-carboxylic acid [2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-yl]-amide | 73 mg, 43% | CN(C1CN(CC1)C=1SC2=C(N1)C=CC(=C2)NC(=O)C=2OC1=C(C2)C=C(C=C1)Cl)C | C22H21ClN4O2S
